US06403792B1
33a) (S)-(+)-N-Boc-2-(4-Methylphenoxymethyl)pyrrolidine
To a solution of (S)-(+)-N-Boc-2-Prolinol (0.50 g. 2.5 mmol), 4-methylphenol (054 g, 5.0 mmol), and triphenylphosphine (1.3 g, 5.0 mmol) in 3.75 mL of THF at 0° C. was added a solution of dissopropyl azodicarboxylate (1.0 g, 5.0 mmol) in 2 mL THF dropwise. The solution was warmed to room temperature and stirred overnight. The solution was concentrated under reduced pressure and ethyl ether was added. The organic layer was washed twice with 50 mL of 1N NaOH, twice with 50 mL of water, twice with 50 mL 3N HCl, and once with 50 mL of water. The organic layer was then dried over Na2SO4, filtered and concentrated under reduced pressure to give an oil. The oil was purified by silica gel chromatography with 6% EtOAc/Hexanes to give the title compound as a colorless oil (0.094 g, 13%). ES (+) MS m/e=292 (M+H).

reactant | 4-methylphenol | 5.0 mmol | CC1=CC=C(C=C1)O | C7H8O
reactant | triphenylphosphine | 5.0 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylate | 5.0 mmol, 1.0 g | N(=NC(=O)[O-])C(=O)[O-]
solvent | THF | 3.75 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-(+)-N-Boc-2-(4-Methylphenoxymethyl)pyrrolidine | 0.094 g, 13% | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)COC1=CC=C(C=C1)C | C17H25NO3
